US07253286B2
4-Benzyloxy-2-methylaniline
After dissolving 4-amino-3-cresol (10 g, 81.20 mmol) in dimethylsulfoxide (80 ml), sodium hydride (3.25 g, 81.20 mmol, 60% in oil) was added and the mixture was stirred for 15 minutes at room temperature under a nitrogen atmosphere. Benzyl bromide (4.83 ml, 40.60 mmol) was added, and the mixture was stirred overnight at room temperature under a nitrogen atmosphere. Water was added to the reaction solution, extraction was performed with diethyl ether/tetrahydrofuran, the extract was washed with saturated brine and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was adsorbed onto silica gel, purified by silica gel column chromatography (hexane-ethyl acetate-ethanol) and then by NH silica gel column chromatography (hexane-ethyl acetate) to obtain the title compound (6.55 g, 30.72 mmol, 75.64%) as a violet oil.

reactant | 4-amino-3-cresol | 81.20 mmol, 10 g | NC=1C(=CC(=CC1)O)C | C7H9NO
reactant | sodium hydride | 81.20 mmol, 3.25 g | [H-].[Na+]
reactant | Benzyl bromide | 40.60 mmol, 4.83 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | Water | O | H2O
solvent | dimethylsulfoxide | 80 ml | CS(=O)C | C2H6OS
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | diethyl ether tetrahydrofuran | C(C)OCC.O1CCCC1
product | 4-Benzyloxy-2-methylaniline | 30.72 mmol, 6.55 g, 75.64% | C(C1=CC=CC=C1)OC1=CC(=C(N)C=C1)C | C14H15NO
